US06017927
To a 130 ml dichloromethane solution containing 6.28 g of 1-phenyl-1,2,3,4-tetrahydroisoquinoline and 3.34 g of triethylamine, 3.1 ml of ethyl chloroformate was added dropwise under ice-cooling, followed by stirring at room temperature overnight. The reaction solution was washed successively with water, 1N hydrochloric acid, water and brine and then dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, thereby 10.58 g of ethyl 1-phenyl-1,2,3,4-tetrahydro-2-isoquinolinecarboxylate was obtained as pale yellow oil.

reactant | dichloromethane | 130 ml | ClCCl | CH2Cl2
reactant | 1-phenyl-1,2,3,4-tetrahydroisoquinoline | 6.28 g | C1(=CC=CC=C1)C1NCCC2=CC=CC=C12 | C15H15N
reactant | ethyl chloroformate | 3.1 ml | ClC(=O)OCC | C3H5ClO2
solvent | triethylamine | 3.34 g | C(C)N(CC)CC | C6H15N
product | ethyl 1-phenyl-1,2,3,4-tetrahydro-2-isoquinolinecarboxylate | 10.58 g | C1(=CC=CC=C1)C1N(CCC2=CC=CC=C12)C(=O)OCC | C18H19NO2
